US05643932
4 g of 3',5'-diacetyloxyacetophenone was suspended in 75 ml of carbon disulfide. Thereto was dropwise added a solution of 0.90 ml of bromine dissolved in 25 ml of carbon disulfide, at room temperature in about 1 hour. The system was heated to about 50° C. ocassionally in the course of dropwise addition and, each time when a reaction started, the system was returned to room temperature and stirred. After the completion of the dropwise addition, stirring was conducted at room temperature for 1 hour. After the completion of the reaction, the solvent was removed by distillation to obtain 5.53 g of 3',5'-diacetyloxy-2-bromoacetophenone as brown crystals.

reactant | 3',5'-diacetyloxyacetophenone | 4 g | C(C)(=O)OC=1C=C(C=C(C1)OC(C)=O)C(C)=O | C12H12O5
reactant | bromine | 0.90 ml | BrBr | Br2
solvent | carbon disulfide | 75 ml | C(=S)=S | CS2
solvent | carbon disulfide | 25 ml | C(=S)=S | CS2
product | 3',5'-diacetyloxy-2-bromoacetophenone | 5.53 g | C(C)(=O)OC=1C=C(C=C(C1)OC(C)=O)C(CBr)=O | C12H11BrO5
